US04948887
23.0 g of 2,4-dichloro-3-nitrobenzoic acid and 150 ml of thionyl chloride were refluxed for 6 hours under heating. Then, thionyl chloride was distilled off to obtain crude 2,4-dichloro-3-nitrobenzoyl chloride. 200 ml of methanol was added to the crude compound and refluxed under heating. Methanol was distilled off, and then ethyl acetate was added thereto to obtain an ethyl acetate solution. The solution was washed sequentially with a 5% sodium hydroxide aqueous solution, diluted hydrochloric acid and water. After drying, the solvent was distilled off to obtain 21.8 g of the desired product. Melting point: 72°-74° C.

reactant | 2,4-dichloro-3-nitrobenzoic acid | 23.0 g | ClC1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,4-dichloro-3-nitrobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1[N+](=O)[O-])Cl | C7H2Cl3NO3
